US06759410B1
a) (+/−)-2-[(1-phenyl)ethylamino]-6-phenylbenzonitrile
The product of example 1a above, 2-fluoro-6-phenylbenzonitrile, (0.118 g, 0.6 mmol), and (+/−)-1-(phenyl)ethylamine (0.5 mL) were combined in a sealed tube that had been flushed with argon. The tube was heated in an oil bath to 120° C. for 18 hours. The reaction was not complete at this time, so the reaction was heated at 150° C. for an additional 48 hours. Flash chromatography on silica gel eluted with 0-3% ethyl acetate in hexane gave the title product. ES (+) MS m/e=299 (MH+)

reactant | 2-fluoro-6-phenylbenzonitrile | 0.6 mmol, 0.118 g | FC1=C(C#N)C(=CC=C1)C1=CC=CC=C1 | C13H8FN
reactant | (+/−)-1-(phenyl)ethylamine | 0.5 mL | C1(=CC=CC=C1)C(C)N | C8H11N
product | (+/−)-2-[(1-phenyl)ethylamino]-6-phenylbenzonitrile | C1(=CC=CC=C1)C(C)NC1=C(C#N)C(=CC=C1)C1=CC=CC=C1 | C21H18N2
